US05576293
Step A: Preparation of N-(3-methyl-2(S)-(t-butoxycarbonylamino)-but-1-yl)phenylalanine methyl ester
Sodium cyanoborohydride (2.0 g, 0.03 mole) was added portionwise (one hour) to a solution of the known compound 2(S)-t-butoxycarbonylamino-3-methylbutyraldehyde (5.8 g, 0.029 mole) and phenylalanine methyl ester hydrochloride (6.1 g, 0.028 mole) in methanol (150 ml) and acetic acid (1.5 ml). The clear reaction mixture was stirred at room temperature under argon for 2 hours and concentrated in vacuo. The residue was cooled in an ice bath, neutralized with saturated NaHCO3 and extracted (3×) with ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated to give a pale yellow residue, which was purified by column chromatography on silica gel using 20% ethyl acetate-hexane. The title compound (8.4 g) was obtained as a pale yellow oil.

reactant | Sodium cyanoborohydride | 0.03 mole, 2.0 g | C(#N)[BH3-].[Na+]
reactant | 2(S)-t-butoxycarbonylamino-3-methylbutyraldehyde | 0.029 mole, 5.8 g | C(C)(C)(C)OC(=O)N[C@H](C=O)C(C)C | C10H19NO3
reactant | phenylalanine methyl ester hydrochloride | 0.028 mole, 6.1 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
solvent | methanol | 150 ml | CO | CH4O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | N-(3-methyl-2(S)-(t-butoxycarbonylamino)-but-1-yl)phenylalanine methyl ester | 8.4 g | COC([C@@H](NC[C@H](C(C)C)NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C20H32N2O4
